US08114877B2
a) (1R,2S,3R,5S)-3-(6-[[Bis-(4-methoxy-phenyl)-methyl]-amino]-2-chloro-purin-9-yl)-5-[4-(tert-butyl-diphenyl-silanyloxymethyl)-pyrazol-1-yl]-cyclopentane-1,2-diol
The title compound is prepared by an analogous procedure to 1R,2S,3R,5S)-3-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-methyl-pyrazol-1-yl)-cyclopentane-1,2-diol (Intermediate BA1) by replacing Carbonic acid (1S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopent-2-enyl ester ethyl ester (Intermediate AA) in step 1 with Carbonic acid (1S,4R)-4-(6-{[bis-(4-methoxy-phenyl)-methyl]-amino}-2-chloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester (Intermediate AB) and by replacing 4-methylpyrazole with 4-(tert-Butyl-diphenyl-silanyloxymethyl)-1H-pyrazole. 1H nmr (CDCl3, 400 MHz); 7.70 (m, 4H), 7.50-7.20 (m, 13H), 6.85 (m, 4H), 6.60 (s, 1H), 5.60 (s, 1H), 4.80 (m, 1H), 4.70 (m, 4H), 4.30 (m, 1H), 3.80 (s, 6H), 3.00 (m, 1H), 2.70 (m, 1H), 1.10 (s, 9H).

reactant | 3-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-methyl-pyrazol-1-yl)-cyclopentane-1,2-diol | ClC1=NC(=C2N=CN(C2=N1)C1C(C(C(C1)N1N=CC(=C1)C)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28ClN7O2
reactant | Carbonic acid (1S,4R)-4-(6-{[bis-(4-methoxy-phenyl)-methyl]-amino}-2-chloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester | C(C)OC(O[C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)NC(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)Cl)=O | C28H28ClN5O5
reactant | 4-methylpyrazole | CC=1C=NNC1 | C4H6N2
reactant | 4-(tert-Butyl-diphenyl-silanyloxymethyl)-1H-pyrazole | C(C)(C)(C)[SiH2]OC(C=1C=NNC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H24N2OSi
product | (1R,2S,3R,5S)-3-(6-[[Bis-(4-methoxy-phenyl)-methyl]-amino]-2-chloro-purin-9-yl)-5-[4-(tert-butyl-diphenyl-silanyloxymethyl)-pyrazol-1-yl]-cyclopentane-1,2-diol | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)NC1=C2N=CN(C2=NC(=N1)Cl)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)C(O[SiH2]C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)O)O | C45H48ClN7O5Si
